US08871767B2
6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine
A solution of 2-amino-5-chloropyridine (0.064 g, 0.5 mmol) and 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone (0.156 g, 0.5 mmol) in acetonitrile (3 ml) is stirred at 100° C. for 18 hr. The mixture is concentrated and purified on silica (0 to 100% EtOAc in hexanes) to give the title compound (165 mg, 97% yield). LCMS m/z=342.3 [M+H]+, tR=2.86 min.

reactant | 2-amino-5-chloropyridine | 0.5 mmol, 0.064 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone | 0.5 mmol, 0.156 g | BrCC(=O)C1=CC(=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H5BrF3NO3
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine | 165 mg, 97% yield | ClC=1C=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C14H7ClF3N3O2
